datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)C1=CC=CC=C1)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C([H])C([H])[NH]2.C[O:10][H] 21=20;20,10=10"
"[NH:10]([H])C(C)C(C)C(O)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(O)C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C(CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(CC)C(CC)[NH]2.C[O:10][H] 21=20;20,10=10"
"[OH:10]C(CC)C(C)C(C)C([H])[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C([H])C(C)C(C)C(CC)[OH+:10]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)CC)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)CC)[H] 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C)C)C>>[H]C1C(C(O[C:20](=[O:10])N1C)C)C.[O-:21]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]C)([NH]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10][H].C[NH+:21]=[C:20]([NH]C)[NH]CC 21=20;20,10=10"
"[H][O+:10](C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC1=CC=CC=C1)CCCCCC)CCCCCC>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC1=CC=CC=C1)CCCCCC)CCCCCC 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21]C)([S]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10][H].C[O+:21]=[C:20]([S]C)[S]C7=CC=CC=C7 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C)CCCCCC)C.[O-:21][H]>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21][H])CCCCCC)C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH+:10](C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C(C([O-:21])C)(C(O[C:20](=[O:10])OC1=CC=CC=C1)C1=CC=CC=C1)CC>>C1(C(O[C:20]([O-:10])([O:21]C1C)OC1=CC=CC=C1)C1=CC=CC=C1)CC 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C)C(CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C)C(CC)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][S+:10](C(C)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S][H].[Cl-]>>[Cl-].[H][S:10]C(C)C(CC)[S][C:20]([S][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C)C)CC.[O-:21]CC>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C)CC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[H][O:10]C([H])C([H])C([H])[O][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[NH:10](C)C([H])C([H])C(O)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(O)C([H])C([H])[NH+:10]1(C) 10=20;20,21=21"
"CC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)C.[O-:21]C>>CC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(CC)[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)[H])CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)[H])[O-:10])CCCCCC 21=20;20,10=10"
